US07304081B2
3-[1-({1-[4(Cyclopentyloxy)phenyl]cyclopropyl}carbonyl)pyrrolidin-3-yl]pyridine
To a solution of 4-{1-[(3-pyridin-3-ylpyrrolidin-1-yl)carbonyl]cyclopropyl}phenol (40.0 mg, 0.000130 mol) in tetrahydrofuran were added cyclopentanol (29.4 μL, 0.000324 mol) diethyl azodicarboxylate (0.0511 mL, 0.000324 mol), and triphenylphosphine (85.0 mg, 0.000324 mol) at room temperature, and the reaction mixture was stirred overnight. The crude product was purified by prep-HPLC. LCMS: m/z 377.1 (M+H)+

reactant | 4-{1-[(3-pyridin-3-ylpyrrolidin-1-yl)carbonyl]cyclopropyl}phenol | 0.000130 mol, 40.0 mg | N1=CC(=CC=C1)C1CN(CC1)C(=O)C1(CC1)C1=CC=C(C=C1)O | C19H20N2O2
reactant | cyclopentanol | 0.000324 mol, 29.4 μL | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 0.000324 mol, 85.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[1-({1-[4(Cyclopentyloxy)phenyl]cyclopropyl}carbonyl)pyrrolidin-3-yl]pyridine | C1(CCCC1)OC1=CC=C(C=C1)C1(CC1)C(=O)N1CC(CC1)C=1C=NC=CC1 | C24H28N2O2
